US07214673B2
3-(3-Phenoxy-benzyl)-piperazine-2,5-dione
Add hydrazine hydrate (0.7 mL, 14.2 mmol) to a solution of 1-acetyl-3-(3-phenoxy-benzyl)-piperazine-2,5-dione (4.8 g, 14.2 mmol) in DMF (10 mL). Stir 2 h, dilute with water (50 mL) and stir an additional 30 minutes. Filter, wash with water, then cold methanol to obtain the title compound as a white powder (2.8 g, 67%): 1H NMR (CDCl3) δ 2.84 (dd, 1H), 2.96 (d, 1H), 3.05 (dd, 1H), 3.42 (d, 1H), 4.03 (m, 1H), 6.83–6.97 (m, 5H), 7.09 (t, 1H), 7.27 (t, 1H), 7.34 (t, 2H), 7.92 (bs, 1H), 8.12 (s, 1H).

reactant | hydrazine hydrate | 14.2 mmol, 0.7 mL | O.NN
reactant | 1-acetyl-3-(3-phenoxy-benzyl)-piperazine-2,5-dione | 14.2 mmol, 4.8 g | C(C)(=O)N1C(C(NC(C1)=O)CC1=CC(=CC=C1)OC1=CC=CC=C1)=O | C19H18N2O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | water | 50 mL | O | H2O
product | 3-(3-Phenoxy-benzyl)-piperazine-2,5-dione | 2.8 g, 67% | O(C1=CC=CC=C1)C=1C=C(CC2C(NCC(N2)=O)=O)C=CC1 | C17H16N2O3
